US05260316
A solution of 6-hydroxy-2-(3-phenylpropyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline (7.55 g, 26.87 mmol), Cs2CO3 (18 g, 53.74 mmol) and chloropropionaldehyde diethyl acetal (5.4 mL, 32.2 mmol) in DMF (100 mL) is stirred for 48 hours. After this time the reaction is diluted with H2O (400 mL) and the resulting mixture extracted with EtOAc (2×200 mL). The combined organic phases are washed with saturated NaCl solution (2×400 mL), dried over MgSO4 and concentrated in vacuo. The residue is chromatographed (silica gel, 1:9 EtOAc/hexane) to give 2-(3-phenylpropyl)-6-(3,3-diethoxypropyloxy)-1-oxo-1,2,3,4-tetrahydroisoquinoline which is hydrolyzed with 6N HCl in tetrahydrofuran at room temperature to yield β-[2-(3-phenylpropyl)-1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yloxy]-propionaldehyde.

reactant | 6-hydroxy-2-(3-phenylpropyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline | 26.87 mmol, 7.55 g | OC=1C=C2CCN(C(C2=CC1)=O)CCCC1=CC=CC=C1 | C18H19NO2
reactant | Cs2CO3 | 53.74 mmol, 18 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | chloropropionaldehyde diethyl acetal | 32.2 mmol, 5.4 mL | C(C)OC(C(C)Cl)OCC | C7H15ClO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | H2O | 400 mL | O | H2O
product | 2-(3-phenylpropyl)-6-(3,3-diethoxypropyloxy)-1-oxo-1,2,3,4-tetrahydroisoquinoline | C1(=CC=CC=C1)CCCN1C(C2=CC=C(C=C2CC1)OCCC(OCC)OCC)=O | C25H33NO4
